US09382243B2
4′-(6-chloro-2-(((3R,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-2-fluoro-[1,1′-biphenyl]-4-carbonitrile
Placed 4-bromo-3-fluorobenzonitrile (15 mg, 0.075 mmol) and chloro[(tri-tert-butylphosphine)-2-(2-aminobiphenyl)]palladium(II) (6 mg, 0.012 mmol) into a reaction vessel in a dry-glove box. Then 6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano-[3,2-d][1,3]dioxin-7-yl)oxy)-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (45 mg, 0.062 mmol) was added as a solution in anhydrous dioxane (0.50 mL) which had been degassed. To this mixture was added a solution of degassed, aqueous 1N K3PO4 (0.19 mL, 0.19 mmol). The reaction vessel was sealed and heated to 80° C. with stirring. After 16 hours, the mixture was allowed to cool to room temperature, then diluted with DCM (2.0 mL) and water (1.0 mL), and vigorously stirred for 30 minutes. The organic layer was separated and concentrated under reduced pressure. The resultant oil was dissolved in DCM (1.0 mL), and SiliaMetS® Dimercaptotriazine (100 mg) was added. The resulting suspension was stirred for 2 hours at 35° C. After cooling to room temperature, the mixture was filtered and concentrated under reduced pressure. The resultant residue was dissolved in DCM (0.50 mL) and TFA (0.50 mL) and stirred at room temperature. After 3 hours the mixture was concentrated under reduced pressure. The resultant oil was dissolved in methanol (0.50 mL), then a 5N aqueous solution of NaOH (0.10 mL) was added and the mixture was allowed to stir at room temperature. After 15 minutes the solution was acidified with a few drops of formic acid and diluted with DMSO. The resulting mixture was filtered to remove solids and purified via reverse phase preparatory HPLC using MeCN/water/formic acid as the mobile phase. The fractions containing product were combined and concentrated under reduced pressure to provide the title compound as a white solid. LC-MS: calculated for C25H20ClFN4O4 494.12, observed m/e: 495.12 (M+H)+ (Rt 0.48/2 min).

reactant | 4-bromo-3-fluorobenzonitrile | 0.075 mmol, 15 mg | BrC1=C(C=C(C#N)C=C1)F | C7H3BrFN
reactant | 6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano-[3,2-d][1,3]dioxin-7-yl)oxy)-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.062 mmol, 45 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C37H47BClN3O7Si
reactant | K3PO4 | 0.19 mmol, 1N, 0.19 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1.0 mL | O | H2O
catalyst | chloro[(tri-tert-butylphosphine)-2-(2-aminobiphenyl)]palladium(II) | 0.012 mmol, 6 mg | CC(C)(C)[P+](C(C)(C)C)(C(C)(C)C)Cl.C1=CC=C(C=C1)C2=CC=CC=C2N.[Pd+2]
product | 4′-(6-chloro-2-(((3R,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-2-fluoro-[1,1′-biphenyl]-4-carbonitrile | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=C(C=C(C=C1)C#N)F)N=C(N2)O[C@H]2CO[C@@H]([C@H](C2)O)CO | C25H20ClFN4O4
